US06878714B2
2-(4-Methoxy-benzyl)-4,4-dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one (2.0 g) was dissolved in CH3CN (100 ml) and H2O (50 ml) and cooled to 0° C. CAN (9.64 g) was added and the reaction was stirred at 0° C. for 30 min, then warmed to RT and stirred for 6 h. The mixture was extracted with CH2Cl2 (2×300 ml) washed with sat'd NH4Cl, dried over MgSO4, filtered and concentrated. The crude material was recrystallized in CH2Cl2/EtOAc (1:1) to give 4,4-dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one as a white solid.

reactant | 2-(4-Methoxy-benzyl)-4,4-dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one | 2.0 g | COC1=CC=C(CN2C(C3=CC(=CC=C3C(C2)(C)C)[N+](=O)[O-])=O)C=C1 | C19H20N2O4
reactant | H2O | 50 ml | O | H2O
reactant | CAN | 9.64 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 4,4-dimethyl-7-nitro-3,4-dihydro-2H-isoquinolin-1-one | CC1(CNC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C11H12N2O3
